US07902383B2
(1) Production of 2-bromo-6-hexanolactam
A benzene (50 g; manufactured by JUNSEI CHEMICAL Co., Ltd.) solution in which 240 g (1.5 mol) of bromine (manufactured by JUNSEI CHEMICAL Co., Ltd.) were dissolved was cooled with ice to 10° C. To the cooled solution, 450 g (1.6 mol) of 90% phosphorus tribromide (manufactured by Wako Pure Chemical Industries Ltd.) were added while the temperature of the reaction solution was maintained at 10° C. or less, and the resultant reaction solution was stirred for 60 minutes. Into the reaction solution, a benzene (220 g) solution in which 85 g (0.75 mol) of commercially available 6-hexanolactam (trade name: ε-caprolactam; manufactured by Tokyo Chemical Industry Co., Ltd.) were dissolved was added dropwise through a dropping funnel over 30 minutes while maintaining the temperature of the reaction solution at 10° C. or less.

reactant | benzene | 50 g | C1=CC=CC=C1 | C6H6
reactant | bromine | 1.5 mol, 240 g | BrBr | Br2
reactant | phosphorus tribromide | 1.6 mol, 450 g | P(Br)(Br)Br | Br3P
reactant | benzene | 220 g | C1=CC=CC=C1 | C6H6
reactant | 6-hexanolactam | C1(CCCCCN1)=O | C6H11NO
product | 2-bromo-6-hexanolactam | BrC1C(=O)NCCCC1 | C6H10BrNO
